US07122580B2
(2S)-(2-Amino-5-chloro-benzoylamino)-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester was prepared (0.6 g, 80%) from (2S)-Amino-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester (0.5 g, 1.5 mmol), 5-chloro-2-amino-benzoic acid (0.28 g, 1.65 mmol) as desribed in general procedure A.

reactant | (2S)-Amino-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester | 1.5 mmol, 0.5 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)N)=O | C22H21NO3
reactant | 5-chloro-2-amino-benzoic acid | 1.65 mmol, 0.28 g | ClC=1C=CC(=C(C(=O)O)C1)N | C7H6ClNO2
product | (2S)-(2-Amino-5-chloro-benzoylamino)-3-(2′-phenoxy-biphenyl-4-yl)-propionic acid methyl ester | COC([C@H](CC1=CC=C(C=C1)C1=C(C=CC=C1)OC1=CC=CC=C1)NC(C1=C(C=CC(=C1)Cl)N)=O)=O | C29H25ClN2O4
